US08802860B2
Preparation of 3-bromo-1-(2,6-dimethyl-4-nitrophenyl)pyridin-2(1H)-one
223 g (38% strength, 0.5 mol) of 2-fluoro-1,3-dimethyl-5-nitrobenzene and 138 g (1.0 mol) of potassium carbonate were introduced as initial charge in 1.95 l of DMSO and heated to 120° C. At this temperature, a solution of 100 g (87% purity, 0.5 mol) of 3-bromopyridone in DMSO was added dropwise. The reaction mixture was stirred for 3.5 h at 120° C., cooled to RT, stirred into water, rendered slightly acidic with hydrochloric acid and extracted with ethyl acetate. The aqueous phase was extracted again with ethyl acetate, and the combined organic phases were washed with water, dried over sodium sulphate, filtered and evaporated to dryness on a rotary evaporator. The crude product was purified over silica gel with dichloromethane then ethyl acetate/dichloromethane=1:20. The isolated product was stirred into diethyl ether/petroleum ether=1:1.5, filtered off with suction and washed with petroleum ether. This gave 75.2 g (47%) of the desired product.

reactant | 2-fluoro-1,3-dimethyl-5-nitrobenzene | 0.5 mol, 223 g | FC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8FNO2
reactant | potassium carbonate | 1.0 mol, 138 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromopyridone | 0.5 mol, 100 g | BrC=1C(NC=CC1)=O | C5H4BrNO
reactant | hydrochloric acid | Cl | ClH
solvent | DMSO | 1.95 l | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-bromo-1-(2,6-dimethyl-4-nitrophenyl)pyridin-2(1H)-one | BrC=1C(N(C=CC1)C1=C(C=C(C=C1C)[N+](=O)[O-])C)=O | C13H11BrN2O3
